US03988370
To a solution obtained by dissolving 4.6 g. of sodium in 300 ml. of dry acetone there was added 32.8 g. of n-butylguanidine sulfate and the resulting mixture was stirred for one hour at room temperature. There was then added dropwise, over a period of one hour, a solution of 19.8 g. of n-butyl isocyanate in 200 ml. of dry acetone, and the mixture thus obtained was stirred overnight at room temperature. (In some instances it was found preferable to use an equivalent amount of tert-butyl alcohol instead of acetone both in the reaction with sodium and as the reaction solvent.) The reaction mixture was evaporated under reduced pressure to reduce its volume by half, after which it was poured into 250 ml. of cold water. (In the preparation of related species of this invention by this procedure, it was found in some instances that instead of pouring the reaction product into water it was desirable and in some cases necessary for ready recovery of the product to evaporate the reaction mixture to dryness and then purify the resulting residue). The red oil which separated from solution was washed twice with water and was then dissolved in diethyl ether. The ethereal solution was dried over anhydrous calciuim sulfate, and the ether was then evaporated from the solution to yield 1-n-butylamidino-3-n-butylurea, having the structural formula ##EQU54## as an oil. This base was dissolved in anhydrous diethyl ether and was converted to its sulfate by addition of a 5 per cent ethereal sulfuric acid solution. The resulting solution was evaporated under reduced pressure, and the pasty residue thus obtained was dissolved in 200 ml. of methyl alcohol. The methanolic solution was treated with decolorizing charcoal and after removal of the charcoal the solution was evaporated under reduced pressure. The residue was dissolved in 200 ml. of isopropyl alcohol and the solution was evaporated under reduced pressure. The sticky residue was dissolved in 200 ml. of methyl alcohol and the methanolic solution was saturated with gaseous ammonia. The mixture was filtered to remove ammonium sulfate and the filtrate was evaporated under reduced pressure to yield a red oil. This oil was dissolved in 100 ml. of anhydrous diethyl ether, 75 ml. of petroleum ether was added, and the resulting solid precipitate was collected on a filter and dried under redued pressure for four hours at 40°C. This product, which weighed 21.7 g., was recrystallized from benzene (100 ml.)-petroleum ether (80 ml.) and then from 700 ml. of anhydrous diethyl ether. There was thus obtained 10.3 g. of 1-n--butylamidino-3-n-butylurea as a white crystalline solid which melted at 82°-94°C. From the ethereal mother liquor there was recovered 3.1 g. of the same product. The solubility of this base in water was less than 0.5 per cent. It was soluble in 95 per cent ethyl alcohol to the extent of 5 per cent (w/v); on addition of four volumes of water to the 5 per cent alcoholic solution, the diluted solution, which had a pH of 8.9, remainde clear.

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | n-butylguanidine sulfate | S(=O)(=O)(O)O.C(CCC)NC(=N)N
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
solvent | water | O | H2O
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 1-n-butylamidino-3-n-butylurea | C(CCC)NC(=N)NC(=O)NCCCC | C10H22N4O
